US05114958
(a) 5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-oxathiazol-2-one
To a 90° C. solution of 2-(2,6-dichloro-3-methylanilino)benzamide (2.300 g, 7.79 mmols) [prepared according to Juby, J. Med. Chem., 11, 111 (1968)] in 40 mL of toluene is added chlorocarbonylsulfenyl chloride (1.300 mL, 15.38 mmols). Heating is continued at 90° C. for 1 hour. The solution is concentrated in vacuo and purified by flash chromatography, eluting with 10:1 hexane:diethyl ether providing 280 mg (10%) of 5-[2-[(2,6-dichloro-3-methylphenyl]amino]phenyl]-1,3,4-oxathiazol-2-one as a white solid; mp 135°-137° C.

reactant | 2-(2,6-dichloro-3-methylanilino)benzamide | 7.79 mmols, 2.300 g | ClC1=C(NC2=C(C(=O)N)C=CC=C2)C(=CC=C1C)Cl | C14H12Cl2N2O
reactant | chlorocarbonylsulfenyl chloride | 15.38 mmols, 1.300 mL | ClC(=O)SCl | CCl2OS
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-oxathiazol-2-one | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NSC(O1)=O | C15H10Cl2N2O2S
